US07495103B2
3-(2-Ethoxy-ethyl)-1H-indol-6-ylamine (B-16) was synthesized following the general scheme above starting from 6-nitroindole and 1-bromo-2-ethoxy-ethane. Overall yield (15%). HPLC ret. time 1.56 min, 10-99% CH3CN, 5 min run; ESI-MS 205.1 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | 1-bromo-2-ethoxy-ethane | BrCCOCC | C4H9BrO
solvent | CH3CN | CC#N | C2H3N
product | 3-(2-Ethoxy-ethyl)-1H-indol-6-ylamine | C(C)OCCC1=CNC2=CC(=CC=C12)N | C12H16N2O
